US05134111
(b) Preparation of 3-chloro-5-ethyl-4-hydroxy-1-naphthalenecarbaldehyde
0.81 g of 5-ethyl-4-hydroxy-1-naphthalenecarbaldehyde and 0.49 ml of sulfuryl chloride were heated in 30 ml of benzene under reflux for 30 minutes. The reaction solution was returned to room temperature and poured into water, followed by extraction with ethyl acetate. The resultant organic phase was washed with a saturated saline solution and dried with anhydrous magnesium sulfate, followed by concentration under reduced pressure. The resultant crystals were washed with isopropyl ether to obtain 0.8 g of the captioned compound as yellowish brown crystals.

reactant | 5-ethyl-4-hydroxy-1-naphthalenecarbaldehyde | 0.81 g | C(C)C1=C2C(=CC=C(C2=CC=C1)C=O)O | C13H12O2
reactant | sulfuryl chloride | 0.49 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | water | O | H2O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 3-chloro-5-ethyl-4-hydroxy-1-naphthalenecarbaldehyde | 0.8 g | ClC=1C=C(C2=CC=CC(=C2C1O)CC)C=O | C13H11ClO2
